US06352982B1
3,5-Trans-N-(2-fluorobenzyl)-1-(N-benzyloxycarbonylpiperidin-4-yl-methyl)-5-(3-tert-butoxycarbonylaminomethylphenyl)-7-chloro-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide (1) In methanol (20 ml) were dissolved 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol produced in Example 1-(2) (1.0 g) and N-benzyloxycarbonyl piperidine-4-carbaldehyde (0.82 g), followed by addition of acetic acid (0.2 g). To the mixture was added, while stirring at room temperature, cyano sodium borohydride (0.2 g). The reaction mixture was stirred for 30 minutes at 60° C., which was then concentrated. To the concentrate was added water (40 ml), followed by extraction with ethyl acetate (60 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-(N-benzyloxycarbonylpiperidin-4-yl-methyl)amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (1.5 g) as a colorless oily product.

reactant | N-benzyloxycarbonyl piperidine-4-carbaldehyde | 0.82 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
reactant | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
reactant | cyano sodium borohydride | 0.2 g | [BH4-].C(#N)[Na]
reactant | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
solvent | methanol | 20 ml | CO | CH4O
product | 2-(N-benzyloxycarbonylpiperidin-4-yl-methyl)amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 1.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C33H40ClN3O5
